US04322429
2,6-DICHLORO-N-(7-(TRIFLUOROMETHYL)-3-BENZISOXAZOLYL)BENZAMIDE
7-(Trifluoromethyl)-3-aminobenzisoxazole (2 gram), 2,6-dichlorobenzoylchloride (2 gram), and 50 ml. of toluene are heated at reflux for 16 hours. After evaporation of the solvent at reduced pressure, the resultant oily semi-solid is triturated with ether. The solid so formed is then washed with ether and water and constitutes the desired product.

reactant | 7-(Trifluoromethyl)-3-aminobenzisoxazole | 2 gram | FC(C1=CC=CC=2C(=NOC21)N)(F)F | C8H5F3N2O
reactant | 2,6-dichlorobenzoylchloride | 2 gram | ClC1=C(C(=O)Cl)C(=CC=C1)Cl | C7H3Cl3O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,6-DICHLORO-N-(7-(TRIFLUOROMETHYL)-3-BENZISOXAZOLYL)BENZAMIDE | ClC1=C(C(=O)NC2=NOC3=C2C=CC=C3C(F)(F)F)C(=CC=C1)Cl | C15H7Cl2F3N2O2
